US07465731B2
A mixture of ethyl (2E)-3-(6-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-3-pyridyl)acrylate (190 mg) and 1N NaOH solution (1.0 ml) in MeOH (20 ml) was stirred at 70-75° C. for 2 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of AcOEt and water. The aqueous solution was adjusted to PH4.5 and extract with AcOEt and THF. The organic layer was washed with brine and dried over MgSO4. The solvent was concentrated in vacuo and the precipitate was collected by filtration to give (2E)-3-(6-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-3-pyridyl)acrylic acid (85 mg)

reactant | ethyl (2E)-3-(6-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-3-pyridyl)acrylate | 190 mg | ClC1=CC=C(C(=O)N2CCC(CC2)NC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1 | C22H24ClN3O3
reactant | NaOH | 1N, 1.0 ml | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | (2E)-3-(6-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-3-pyridyl)acrylic acid | 85 mg | ClC1=CC=C(C(=O)N2CCC(CC2)NC2=CC=C(C=N2)/C=C/C(=O)O)C=C1 | C20H20ClN3O3
